US08563573B2
HATU (38 mg, 0.10 mmol) was added to a solution of 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid (24 mg, 0.10 mmol), 2-(5-amino-2-tert-butyl-1H-pyrrolo[2,3-c]pyridin-1-yl)ethanol (23 mg, 0.10 mmol) and triethylamine (42 μL, 0.30 mmol) in DMF (1 mL). The mixture was stirred at room temperature for 1 hour. The mixture was filtered and purified by reverse-phase HPLC (10-99% CH3CN—H2O with 0.035% TFA) to yield N-(2-tert-butyl-1-(2-hydroxyethyl)-1H-pyrrolo[2,3-c]pyridin-5-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide. ESI-MS m/z calc. 457.2, found 458.5 (M+1)+. Retention time 1.77 minutes. 1H NMR (400 MHz, DMSO-d6) δ 9.54 (br s, 1H), 8.84 (s, 1H), 7.83 (s, 1H), 7.58 (d, J=1.7 Hz, 1H), 7.45 (d, J=8.3 Hz, 1H), 7.35 (dd, J=8.3, 1.7 Hz, 1H), 6.67 (s, 1H), 4.58 (t, J=5.7 Hz, 2H), 3.76 (t, J=5.7 Hz, 2H), 1.58 (m, 2H), 1.46 (s, 9H), 1.28 (m, 2H).

reactant | HATU | 0.10 mmol, 38 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid | 0.10 mmol, 24 mg | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)O)F | C11H8F2O4
reactant | 2-(5-amino-2-tert-butyl-1H-pyrrolo[2,3-c]pyridin-1-yl)ethanol | 0.10 mmol, 23 mg | NC=1C=C2C(=CN1)N(C(=C2)C(C)(C)C)CCO | C13H19N3O
reactant | triethylamine | 0.30 mmol, 42 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(2-tert-butyl-1-(2-hydroxyethyl)-1H-pyrrolo[2,3-c]pyridin-5-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | C(C)(C)(C)C1=CC=2C(=CN=C(C2)NC(=O)C2(CC2)C2=CC3=C(OC(O3)(F)F)C=C2)N1CCO | C24H25F2N3O4
